US04752326
Preparation of 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethyl-4-chloropyrazole (Compound No. 189) (Process D)
Into a solution of 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethylpyrazole (31.9 g) in chloroform (200 ml) was introduced chlorine gas (7.1 g) for 10 minutes under water-cooling, and then the reaction mixture was stirred for further 30 minutes to effect the chlorination reaction. Removal of the solvent from the reaction solution by distillation in vacuo gave the titled compound (35.2 g) as a pale brown oil. Purification of this oil by silica gel column chromatography yielded a colorless oil. nD23 =1.5431.

reactant | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethylpyrazole | 31.9 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C=C1C)C | C12H12ClFN2O3S
reactant | chlorine | 7.1 g | ClCl | Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3,5-dimethyl-4-chloropyrazole | 35.2 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C(=C1C)Cl)C | C12H11Cl2FN2O3S
